US04220603
To a suspension of 1.0 g of lithium hydride in 30 ml of toluene was added dropwise a solution of 3.96 g of 2-hydroxybibenzyl in 30 ml of toluene at room temperature over 5 minutes. The mixture was heated under reflux for 30 minutes, a solution of 6.45 g of 2-chloro-N,N-dimethylethylamine in 20 ml of toluene added dropwise under reflux over 5 minutes and then reflux was continued for an additional 2 hours. The reaction mixture was cooled to room temperature, and to this was added 50 ml of water. The toluene layer was separated, washed twice with water, dried over anhydrous sodium sulfate and then the toluene distilled off in vacuo. The residue was dissolved in ethyl ether, and then 20% ethanolic hydrogen chloride solution was added. The resulting precipitate was collected by filtration and recrystallized from ethanol-ether to give 5.81 g (95% yield) of 2-(2-dimethylaminoethoxy)bibenzyl hydrochloride, m. p. 172°-173° C.

reactant | lithium hydride | 1.0 g | [H-].[Li+]
reactant | 2-hydroxybibenzyl | 3.96 g | OC1=C(C=CC=C1)CCC1=CC=CC=C1 | C14H14O
reactant | 2-chloro-N,N-dimethylethylamine | 6.45 g | ClCCN(C)C | C4H10ClN
reactant | water | 50 ml | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-dimethylaminoethoxy)bibenzyl hydrochloride | 5.81 g, 95% yield | Cl.CN(CCOC1=C(C=CC=C1)CCC1=CC=CC=C1)C | InChI=1S/C18H23NO.ClH/c1-19(2)14-15-20-18-11-7-6-10-17(18)13-12-16-8-4-3-5-9-16;/h3-11H,12-15H2,1-2H3;1H
